Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization

 
History of Present Illness:
Per admitting HPI:

___ is a ___ y.o. female w/ a pmhx of HTN, HLD, and 
hypothyroidism who presented to an OSH w/ 9hrs of sudden onset 
CP and was subsequently transferred to ___ from ___ due to 
concern for NSTEMI. 

Her sxs started at 4am on ___ where she was woken up by 
acute onset substernal non-radiating CP. She described it as 
heaviness on her chest. The pain was constant and worse when 
lying flat and better when sitting forward, which caused her to 
spend the rest of the night sleeping in a chair. Shortly after 
the pain started she attempted to ambulate and felt light-headed 
to the point where she had to lean on the wall. She noted that 
she has felt diaphoretic in the past few days. She denies any 
HA, abdominal pain, N/V, SOB, or DOE. She has endorsed CP w/ 
exertion in the past and had a stress test in ___ w/ 
findings suggestive of ischemia. She is normally able to lie 
flat w/o any issues. She denies any recent illness or fevers, 
but endorsed recently feeling congested and had a productive 
cough w/ a white sputum. In the ED at ___ her pain had 
subsided, but remained in the same location. She was given ASA 
325mg by EMS and was noted to have an irregular rate. 

She is a former smoker who quit one year ago. Family hx is 
notable for her mother who passed away from an MI at the age of 
___. She does not currently follow w/ a cardiologist. 

Of note, she has been under lots of stress lately. She is a very 
independent lazy and still is able to drive herself and take 
care of herself. She was the primary caregiver of her ___ yo 
sister, however had to place her in a nursing home. This has 
been causing her a lot of sadness and stress.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- No known cardiac histroy
3. OTHER PAST MEDICAL HISTORY 
Hypothyroidism
OSTEOPOROSIS  last BD in ___, stable. mild ostepenia BD ___ 
Urticaria, dermatographic 
Cervical polyp 
Gastrointestinal bleeding, lower  
Diverticulosis 
COLORECTAL POLYPS due in ___ 
Chronic constipation 
Exertional chest pain 
Macular drusen 
Acute bilateral low back pain with bilateral sciatica 

 
Social History:
___
Family History:
Mother died of an MI at age ___ family history of early 
MI,arrhythmia, cardiomyopathies, or sudden cardiac death.  
 
Physical Exam:
======================
ADMISSION PHYSICAL EXAM
======================
___ BP: 99/62 HR: 97 O2 sat: 94% 
General: NAD, AAOX3
Heart: RRR, no murmurs
Lungs: CTAB
Abdomen, soft, nontender, normal bowel sounds.
Extremities: no peripheral edema.
Neruo: Grossly intact, normal strength and sensation.

======================
DISCHARGE PHYSICAL EXAM
======================
Vitals: ___ 0907 BP: 119/65 HR: 71 O2 sat: 97% 
General: Well appearing woman, sitting in a chair in no acute
distress
Heart: Normal rate, regular rhythm. No murmurs/rubs/gallops
appreciated
Lungs: Lungs clear to auscultation bilaterally. No
wheezes/crackles appreciated
Abdomen: Soft, nontender, non-distended. normal bowel sounds.
Extremities: no peripheral edema. Pulses 2+ bilaterally.
Neruo: Grossly intact, normal strength and sensation.
 
Pertinent Results:
=============
ADMISSION LABS
=============
___ 02:45PM BLOOD WBC-22.1* RBC-3.87* Hgb-12.4 Hct-37.3 
MCV-96 MCH-32.0 MCHC-33.2 RDW-13.4 RDWSD-47.8* Plt ___
___ 02:45PM BLOOD Neuts-80.7* Lymphs-10.2* Monos-7.8 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-17.80* AbsLymp-2.25 
AbsMono-1.72* AbsEos-0.02* AbsBaso-0.05
___ 02:45PM BLOOD ___ PTT-150* ___
___ 02:45PM BLOOD Glucose-118* UreaN-17 Creat-0.4 Na-135 
K-4.2 Cl-95* HCO3-23 AnGap-17
___ 02:45PM BLOOD ALT-14 AST-47* AlkPhos-72 TotBili-0.7
___ 02:45PM BLOOD proBNP-2600*
___ 02:45PM BLOOD cTropnT-1.68*
___ 09:25PM BLOOD CK-MB-39* cTropnT-1.30*
___ 07:40AM BLOOD CK-MB-28* cTropnT-0.83*
___ 02:45PM BLOOD Albumin-4.2 Calcium-9.1 Phos-3.3 Mg-1.7

=======
STUDIES
=======
EKG: ___ Interpreted by ___ MS4
Rate: 97 
Rhythm: Sinus rhythm, irregular, P-P interval irregular 
Axis: Left axis deviated 
Intervals: Narrow QRS, PR interval not prolonged, QT within
normal limits 
Ischemic Changes: No significant ST-elevations w/ minor 
elevation
in V1-V2, T-wave in depressions in aVR (normal variant), No
ST-depressions, no q waves
Additional changes: Possible peaked T-waves 
Conclusions: Possible PACs or Type 2 2nd degree heart block,
however, ECG on ___ showed a similar sinus arrhythmia w/ no
evidence of PACs or 2nd degree block

Labs/studies notable for: A troponin of 1.2 at OSH, which
increased to 1.68 at ___.

Patient was given: On Hep gtt @ 750 units/hr after bolus. Given
full ASA, ntg IV x 1 and morphine.  
 
Cath lab:
radial access
no coronary artery disease
LV gram suggestive of moderate anteroapical hypokinesis.

=============
DISCHARGE LABS
=============
___ 06:44AM BLOOD WBC-10.1* RBC-3.87* Hgb-12.6 Hct-37.5 
MCV-97 MCH-32.6* MCHC-33.6 RDW-14.2 RDWSD-49.5* Plt ___
___ 06:44AM BLOOD Glucose-141* UreaN-33* Creat-0.8 Na-139 
K-4.2 Cl-98 HCO3-20* AnGap-21*
___ 06:44AM BLOOD Calcium-8.8 Phos-4.0 Mg-1.___ is an ___ y.o. female w/ pmhx of HTN, HLD, and 
hypothyroidism who was transferred to ___ for a suspected 
NSTEMI, was cathed with right radial access and found to have LV 
anteroapical hypokinesis suggestive of takutsubo's 
cardiomyopathy. 

ACTIVE ISSUES: 
=============
# Chest pain
# Stress cardiomyopathy/takutsubos
Pt presented with chest pain, trop T peaked at 1.68. Cath w/ no 
CAD, showed anteroapical hypokinesis consistent w/ takutsubos 
cardiomyopathy-likely ___ to stress surrounding pt's sister's 
declining health. Euvolemic on exam and pt has no chest pain 
after cath. Was started on Metoprolol tartrate 12.5mg BID. Home 
amlodipine was stopped. TTE on day of discharge showed an EF of 
33%, with "moderate regional LV systolic dysfunction not 
following a coronary distribution not classical for ___'s 
cardiomyopathy but certainly in the differential." No LV 
thrombus was visualized. Pt discharged with plan for cardiology 
followup and repeat echo.

#Leukocytosis: Patient found to have leukocytosis to 22 on 
admission, trended
down over course of admission. Remained afebrile w/out signs of 
infxn. Likely
___ to stress response from cardiomyopathy.

CHRONIC ISSUES: 
===============
#HTN: D/Ced home amlodipine in favor of BB, given cardiac 
benefit.

#HLD: Continued home statin

#Hypothyroidism: Continued home levothyroxine

TRANSITIONAL ISSUES:
====================
[] Pt should have cardiology followup and repeat echo about 1 
month after discharge to assess for cardiac recovery
[] Please ensure patient follows up with therapist given 
emotional stress causing cardiomyopathy

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0 
2.  Levothyroxine Sodium 75 mcg PO DAILY  
3.  Lisinopril 10 mg PO DAILY  
4.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: ___'s Cardiomyopathy
Secondary Diagnoses: Hypertension, hyperlipidemia, 
hypothyroidism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were having chest pain

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You had a cardiac catheterization which showed that you did 
not have any blockages in the blood vessels of your heart, but 
your heart was not pumping as well as it usually does. This is 
likely from stress, and is called "Takotsubo's". We started you 
on some medicines to help your heart return to normal pumping.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please make sure you take all of your medications, and follow 
up with all of your doctors. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 
Followup Instructions:
___